US07906654B2
(4-Bromo-2-chlorophenyl)methanol
To a stirred solution of 4-bromo-2-chlorobenzoic acid (4.27 g, 18.1 mmol) in tetrahydrofuran (39 mL) at 0° C. is added borane-tetrahydrofuran complex (1 M in THF) (36.3 mL, 36.3 mmol). The reaction mixture is stirred 16 h at room temperature. At 0° C., water is slowly added then NaHCO3 aq. sat. is also slowly added The resulting solution is extracted with EtOAc (3×50 mL). The combined organic layer is washed with brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. The crude product is purified by flash chromatography (eluent: Hexanes/EtOAc 85:15 to 70:30) to provide the expected product (4-bromo-2-chlorophenyl)methanol (4.34 g, 108%). 1H NMR (300 MHz, CHLOROFORM-D): δ 7.53 (1H, d, J=1.8 Hz), 7.43 (1H, dd, J=8.2, 1.8 Hz), 7.38 (1H, d, J=8.2 Hz), 4.74 (2H, d, J=6.2 Hz), 1.90 (1H, t, J=6.3 Hz).

reactant | 4-bromo-2-chlorobenzoic acid | 18.1 mmol, 4.27 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | borane tetrahydrofuran | 36.3 mmol, 1 M, 36.3 mL | B.O1CCCC1
reactant | water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 39 mL | O1CCCC1 | C4H8O
product | (4-bromo-2-chlorophenyl)methanol | 4.34 g, 108% | BrC1=CC(=C(C=C1)CO)Cl | C7H6BrClO
